US08497265B2
To a solution of tert-butyl 3-(3-chloropyrazin-2-yloxy)azetidine-1-carboxylate (see PREPARATION P20.2; 4.3 g, 15.05 mmol) and DCM (50 mL) was added 4M HCl in dioxane (3.76 mL, 15.05 mmol). After 72 hours, a precipitate coated the walls of the flask. The liquid was carefully decanted off and the rinsed with DCM (20 mL) and again carefully decanted off. The precipitate coated round bottomed flask was treated with DCM:saturated NaHCO3 (1:1, 150 mL). The aqueous layer was extracted with 10% MeOH in DCM (4×25 mL). The combined organic layers were concentrated in vacuo to give crude product. The aqueous layer still contained the majority of the product. The aqueous layer was concentrated in vacuo and the solids stirred with 10% MeOH in DCM (200 mL) for 2 hours, then filtered. The filtrate was concentrated in vacuo to give more crude product. The separate lots of crude product were combined to give crude 2-(azetidin-3-yloxy)-3-chloropyrazine (1.75 g, 62.6% yield), as a tan solid. The product was carried forward in the next step without further purification. MS (ESI) m/z 186.1 (MH+).

reactant | tert-butyl 3-(3-chloropyrazin-2-yloxy)azetidine-1-carboxylate | 15.05 mmol, 4.3 g | ClC=1C(=NC=CN1)OC1CN(C1)C(=O)OC(C)(C)C | C12H16ClN3O3
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 15.05 mmol, 3.76 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-(azetidin-3-yloxy)-3-chloropyrazine | 1.75 g, 62.6% yield | N1CC(C1)OC1=NC=CN=C1Cl | C7H8ClN3O
